US08957069B2
1-(6-Methoxypyridin-3-yl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine
By using 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine (210 mg, 0.765 mmol) synthesized in Reference example 61 and 5-bromo-2-methoxypyridine (216 mg, 1.15 mmol), the reaction was carried out in the same manner as Example 23 to synthesize the title compound 109 mg (yield 37%).

reactant | 1-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 0.765 mmol, 210 mg | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCNCC2)C)C | C17H26N2O
reactant | 5-bromo-2-methoxypyridine | 1.15 mmol, 216 mg | BrC=1C=CC(=NC1)OC | C6H6BrNO
product | 1-(6-Methoxypyridin-3-yl)-4-(2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl)piperazine | 109 mg, yield 37% | COC1=CC=C(C=N1)N1CCN(CC1)C=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C23H31N3O2
